US08754085B2
Step 3: 2-Phenyl-3-p-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine
2-Phenyl-3-p-tolyl-pyrido[2,3-b]pyrazine (1.07 g, 3.60 mmol) under nitrogen in dry MeOH (10 ml) was treated with ammonium formate (2.269 g, 36.0 mmol) and 10% palladium hydroxide on carbon (200 mg, 0.142 mmol). The resulting mixture was heated at reflux for 1 hour. After cooling to RT, the mixture was filtered through Celite® (filter material) and the catalyst was washed with MeOH followed by DCM. The filtrate was concentrated in vacuo to yield a solid which was triturated with MeOH. The resulting solid was dried under vacuum to afford the title compound;

reactant | 2-Phenyl-3-p-tolyl-pyrido[2,3-b]pyrazine | 3.60 mmol, 1.07 g | C1(=CC=CC=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)N=CC=C2 | C20H15N3
reactant | ammonium formate | 36.0 mmol, 2.269 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.142 mmol, 200 mg | [OH-].[OH-].[Pd+2]
product | 2-Phenyl-3-p-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine | C1(=CC=CC=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)NCCC2 | C20H19N3
